US20010027193A1
(RS)-2-{1-[[Bis(4-chlorophenyl)methyl]-azetidin-3-yl}-2-(3,5-difluorophenyl)-N-(2-pyrrolidin-1-ylethyl)acetamide may be prepared in the following manner: 0.015 cm3 of aminoethylpyrrolidine, 29 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 0.028 cm3 of triethylamine and 1.5 mg of hydroxybenzotriazole hydrate are successively added to a solution of 50 mg of (RS)-{1-[bis(4-chlorophenyl)-methyl]azetidin-3-yl}-(3,5-difluorophenyl)acetic acid hydrochloride in 2 cm3 of anhydrous dichloromethane, at a temperature in the region of 20° C. The solution obtained is stirred at a temperature in the region of 20° C. for about 12 hours. The reaction medium is deposited on a Varian cartridge (6 cm3) filled with 3 g of fine silica (0.040-0.063 mm), conditioned with dichloromethane with the aid of a Duramat pump, eluted with a dichloromethane-ethanol (98-04 by volume) mixture, collecting 1.5-cm3 fractions. Fractions 13 to 20 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. 33 mg of (RS)-2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-2-(3,5-difluorophenyl)-N-(2-pyrrolidin-1-ylethyl)acetamide are thus obtained in the form of a white foam [1H NMR spectrum (300 MHz, CDCl3, δ in ppm) 1.78 (mt: 4H); from 2.50 to 2.70 (mt: 3H); 2.54 (mt: 4H); 2.91 (dd, J=7.5 and 5 Hz: 1H); 3.10 (mt: 2H); from 3.20 to 3.45 (mt: 3H); 3.64 (d, J=10.5 Hz: 1H); 4.27 (s: 1H); 6.67 (tt, J=9 and 2.5 Hz: 1H); 6.86 (mt: 2H); from 7.15 to 7.35 (mt: 8H)].

reactant | aminoethylpyrrolidine | 0.015 cm3 | NCCN1CCCC1 | C6H14N2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 29 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole hydrate | 1.5 mg | O.OC1=CC=CC=2NN=NC21
reactant | (RS)-{1-[bis(4-chlorophenyl)-methyl]azetidin-3-yl}-(3,5-difluorophenyl)acetic acid hydrochloride | 50 mg | Cl.ClC1=CC=C(C=C1)C(N1CC(C1)C(C(=O)O)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl
solvent | dichloromethane | 2 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | 0.028 cm3 | C(C)N(CC)CC | C6H15N
product | (RS)-2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-2-(3,5-difluorophenyl)-N-(2-pyrrolidin-1-ylethyl)acetamide | 33 mg | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(=O)NCCN1CCCC1)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C30H31Cl2F2N3O
